US07696215B2
Using an analogous procedure to that described paragraph (C) in the portion of Example 1 which is concerned with the preparation of starting material methyl 4-methyl-3-[6-(4-ethylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzoate was hydrolysed with 1N NaOH to give 4-methyl-3-[6-(4-ethylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzoic acid; NMR Spectrum: (DMSOd6) 1.30 (t, 3H), 2.16 (s, 3H), 3.20 (m, 6H), 3.59 (d, 2H), 4.03 (d, 2H), 7.60 (m, 2H), 7.71 (m, 2H), 7.93 (s, 1H), 8.01 (d, 1H), 8.15 (s, 1H), 10.48 (s, 1H), 13.11 (s, 1H); Mass Spectrum: M+H+ 393.

reactant | methyl 4-methyl-3-[6-(4-ethylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzoate | CC1=C(C=C(C(=O)OC)C=C1)N1C=NC2=CC=C(C=C2C1=O)N1CCN(CC1)CC | C23H26N4O3
reactant | NaOH | 1N | [OH-].[Na+]
product | 4-methyl-3-[6-(4-ethylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzoic acid | CC1=C(C=C(C(=O)O)C=C1)N1C=NC2=CC=C(C=C2C1=O)N1CCN(CC1)CC | C22H24N4O3
